US09255094B2
Preparation of 1-(8-chloro-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-3-methyl-2-(pyridin-4-yl)butan-2-ol (Compound No. 1-21)
To a stirred solution of sodium hydride (0.261 g, 50-60%) in dry DMF (5 mL) at 0° C. was added 8-chloro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole (0.3 g). The reaction mixture was stirred at RT for 30 min. To the reaction mixture was added 4-(2-isopropyloxiran-2-yl)pyridine (0.288 g in 2 mL DMF) at RT. After 12 h stirring, the reaction mixture was diluted with ice-water and extracted with EtOAc (3×10 mL). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and evaporated. The crude product was triturated with diethyl ether to obtain pure product (90 mg). 1HNMR (DMSO, Oxalate salt) d (ppm): 8.30 (d, 2H), 7.30 (m, 3H), 7.10 (d, 1H), 6.82 (d, 1H), 4.50 (m, 2H), 4.22 (m, 2H), 3.42 (m, 1H), 3.30 (m, 2H), 2.80 (s, 3H), 2.62 (m, 1H), 1.78 (m, 1H), 1.15 (d, 3H), 0.6 (d, 3H).

reactant | sodium hydride | 0.261 g | [H-].[Na+]
reactant | 8-chloro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole | 0.3 g | ClC1=CC=2C3=C(NC2C=C1)CCN(C3)C | C12H13ClN2
reactant | 4-(2-isopropyloxiran-2-yl)pyridine | 2 mL, 0.288 g | C(C)(C)C1(OC1)C1=CC=NC=C1 | C10H13NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(8-chloro-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-3-methyl-2-(pyridin-4-yl)butan-2-ol | 90 mg | ClC1=CC=2C3=C(N(C2C=C1)CC(C(C)C)(O)C1=CC=NC=C1)CCN(C3)C | C22H26ClN3O
